US07157577B2
To a suspension of 10 g of 3-(4-oxo-4,5,6,7,tetrahydro-1H-indol-3-yl-propionic acid (48 mmol) in 60 mL of dichloromethane was added 9.3 g (57.6 mmol) of carbonyldiimidazole. After stirring at room temperature for 2 hours, 5.3 mL (48 mmol) of 1-methylpiperazine and 8.4 mL (48 mmol) of N,N-diisopropylethylamine were added. The dark red reaction mixture was stirred at room temperature overnight. The reaction was poured into water and the organic layer washed with brine, dried and concentrated to give 8 g (57% yield) of 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydro-indol-4-one. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 10.97 (br s, 1H, NH), 6.47 (d, 1H), 3.43 (m, 4H, 2×CH2), 2.67–2.75 (m, 4H, 2×CH2), 2.51 (m, 2H, CH2), 2.27 (m, 2H, CH2), 2.20 (m, 4H, 2×CH2), 2.15 (s, 3H, CH3), 1.97 (m, 2H, CH2). MS m/z 289 [M+].

reactant | 4-oxo-4,5,6,7,tetrahydro-1H-indol-3-yl-propionic acid | 48 mmol | O=C1C=2C(=CNC2CCC1)C(C(=O)O)C | C11H13NO3
reactant | carbonyldiimidazole | 57.6 mmol, 9.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-methylpiperazine | 48 mmol, 5.3 mL | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 48 mmol, 8.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydro-indol-4-one | 8 g, 57% yield | CN1CCN(CC1)C(CCC1=CNC=2CCCC(C12)=O)=O | C16H23N3O2
